US05478933
Step 3: (2-Nitrophenyl)-(6-methoxypyridin-3-yl)methanol
n-Butyllithium (6.7 ml of a 1.6M hexane solution) was added dropwise to a stirred, cooled (-100° C.) solution of 5-bromo-2-methoxypyridine (2.0 g, Eur. J. Med. Chem. 1977, 12, 531) in anhydrous tetrahydrofuran (60 ml), under a nitrogen atmosphere. After 20 minutes a solution of 2-nitrobenzaldehyde (1.61 g) in anhydrous tetrahydrofuran (30 ml)was added dropwise and the reaction mixture was stirred whilst maintaining the temperature between -90° and -100° C. for 2 hours. The reaction mixture was warmed to -85° C. then quenched with saturated aqueous ammonium chloride solution then allowed to warm to room temperature. The organic layer was separated and the aqueous extracted with ethyl acetate (3×100 ml). The combined organics were dried (magnesium sulphate) then evaporated to give a gum which was purified by column chromatography on silica using ethyl acetate/petroleum ether (60-80) (1:4) to afford an oil which solidified to give a low melting solid on standing (1.42 g). Rf =0.30 in 33% ethyl acetate/petroleum ether (60-80) on silica plates; 1H NMR (360 MHz, CDCl3) δ 2.60 (1H, broad s), 3.91 (3H, s), 6.43 (1H, s), 6.70 (1H, d, J=9 Hz), 7.48 (1H, dd, J=1 and 8 Hz), 7.53 (1H, dd, J=3 and 9 Hz), 7.67 (1H, dd, J=1 and 8 Hz), 7.83 (1H, d, J=8 Hz), 7.96 (1H, dd, J=1 and 8 Hz), 8.11 (1H, d, J=3 Hz); MS, m/z 261 for (M+H)+ ; IR (KBr) 3300 cm-1 (v. broad).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 5-bromo-2-methoxypyridine | 2.0 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | 2-nitrobenzaldehyde | 1.61 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | KBr | [K+].[Br-]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | (2-Nitrophenyl)-(6-methoxypyridin-3-yl)methanol | [N+](=O)([O-])C1=C(C=CC=C1)C(O)C=1C=NC(=CC1)OC | C13H12N2O4
